US03998829
21-Ethylthiomethyl-3α-hydroxy-5α-pregnane-11,20-dione
3α-Hydroxy-21-methylene-5α-pregnane-11,20-dione (250 mg. ) was dissolved in ethanethiol (2 ml) and the solution kept at room temperature for 24 hours. The excess ethanethiol was removed in vacuo and the residue partitioned between ether and water. The ethereal solution was washed with water, dried over anhydrous sodium sulphate and evaporated to a foam which was purified by preparative t.l.c. to give title compound (150 mg) as a glass [α]D + 83.3° (c = 0.12)

reactant | 3α-Hydroxy-21-methylene-5α-pregnane-11,20-dione | 250 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C=C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C22H32O3
reactant | ethanethiol | 2 ml | C(C)S | C2H6S
product | 21-Ethylthiomethyl-3α-hydroxy-5α-pregnane-11,20-dione | 150 mg | C(C)SCCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C24H38O3S
